### PR TITLE
Split epimorphisms

### PR DESCRIPTION
**Pull request by amblafont**
The HSet category has split epimorphisms (using the axiom of choice)

### CODE REVIEW

File: UniMath/CategoryTheory/categories/category_hset_structures.v [hunk 1]
```diff
@@ -1035,9 +1046,17 @@ Proof.
...
-  now apply funextfun.
+  now apply EpisAreSurjective_HSET.
+Qed.
+
+Lemma SplitEpis_HSET : AxiomOfChoice_surj -> EpisAreSplit HSET.
+Proof.
+  intros axC A B f epif.
+  apply EpisAreSurjective_HSET in epif.
+  apply axC in epif.
+  unshelve eapply (hinhfun _ epif).
```
Comment (mortberg) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: I think this generates two subgoals? If so please add bullets

File: UniMath/CategoryTheory/categories/category_hset_structures.v [hunk 2]
```diff
@@ -1035,9 +1046,17 @@ Proof.
...
-  apply (epif C g1 g2).
-  now apply funextfun.
+  now apply EpisAreSurjective_HSET.
+Qed.
+
+Lemma SplitEpis_HSET : AxiomOfChoice_surj -> EpisAreSplit HSET.
+Proof.
+  intros axC A B f epif.
+  apply EpisAreSurjective_HSET in epif.
+  apply axC in epif.
```
Comment (mortberg) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: I don't know if you know, but you can combine apply's using ,. So these 2 lines could be `apply EpisAreSurjecti_HSET, axC in epif`.

File: UniMath/CategoryTheory/categories/category_hset_structures.v [hunk 3]
```diff
@@ -1027,6 +1029,15 @@ enjoyed by surjections (univ_surj)
   Qed.
 End kernel_pair_Set.
 
+Lemma EpisAreSurjective_HSET {A B : HSET} (f: HSET ⟦ A, B ⟧) (epif : Epis.isEpi f)
```
Comment (mortberg) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: Why does `isEpi` have to be qualified? Maybe you can import `Epis` it and drop the `Epis.`?

**Comment by mortberg** [comment]
Lgtm (modulo some small comments)

**Comment by amblafont** [comment]
thanks for feedback

File: UniMath/CategoryTheory/categories/category_hset_structures.v (hunk 2 above)
Comment (amblafont) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: I didn't know. Thanks!

File: UniMath/CategoryTheory/categories/category_hset_structures.v (hunk 1 above)
Comment (amblafont) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: No, it doesn't

File: UniMath/CategoryTheory/categories/category_hset_structures.v (hunk 2 above)
Comment (mortberg) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: It's exactly like in rewrite. This way one can get shorter proofs by combining applies that do simple things.

File: UniMath/CategoryTheory/categories/category_hset_structures.v (hunk 1 above)
Comment (mortberg) [inline UniMath/CategoryTheory/categories/category_hset_structures.v]: Ah right, I read "exact (pr1 h)" below. My bad.

File: UniMath/CategoryTheory/EpiFacts.v [hunk 4]
```diff
@@ -195,4 +197,42 @@ Proof.
...
+        repeat rewrite <- assoc.
+        now apply cancel_precomposition.
+    Qed.
+  End DefSplitEpis.
+
+  Definition EpisAreSplit (C:precategory) :=
+    ∏ (A B:C) (f:C⟦A,B⟧), isEpi f -> isSplitEpi f.
+
+  (** Functors preserve split epimorphisms *)
+  Lemma isSplitEpi_isAbsolute {C D:precategory} (F:functor C D)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/EpiFacts.v]: I suggest renaming this thing to `preserves_isSplitEpi` or similar - nobody knows what 'absolute' means.

**Comment by benediktahrens** [comment]
@amblafont : your emacs seems to auto-indent sections. This deviates from the current practice in UniMath, where sections are not indented.

Could you please remove that indentation?

**Comment by mortberg** [comment]
I've put these custom-set-variables in my .emacs to disable the automatic
indentation in proof general that I find very annoying:

```
 '(coq-indent-box-style nil)
 '(coq-script-indent nil)
```

--
Anders

**Comment by benediktahrens** [comment]
lgtm
